US07049310B2
c) 6,7-Dihydro-5H-quinolin-8-one Oxime
According to the reported procedure (J. Het. Chem. 1978, 15, 249–251), 6,7-dihydro-5H-quinolin-8-one was reacted with hydroxylamine hydrochloride to afford the title compound (2.40 g, 96%) as a white solid after drying in vacuo: MS (ES) m/e 163 (M+H)+.

reactant | 6,7-dihydro-5H-quinolin-8-one | N1=CC=CC=2CCCC(C12)=O | C9H9NO
reactant | hydroxylamine hydrochloride | Cl.NO
product | 6,7-Dihydro-5H-quinolin-8-one Oxime | 2.40 g, 96% | N1=CC=CC=2CCCC(C12)=NO | C9H10N2O
